US05120843
Bromine is added dropwise to a solution of 2,6-dimethylanisole (12.0 g) in chloroform (100 ml) at about 5°. The solution is stirred at 5° for 2 hr and then allowed to warm to 20°-25°. The reaction mixture is poured into ice-water, and the phases are separated. The chloroform phase is washed with water, aqueous sodium bisulfite solution, then with water, dried over sodium sulfate and concentrated under reduced pressure to give 3,5-dimethyl-4-methoxybromobenzene.

reactant | Bromine | BrBr | Br2
reactant | 2,6-dimethylanisole | 12.0 g | CC1=C(C(=CC=C1)C)OC | C9H12O
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | 3,5-dimethyl-4-methoxybromobenzene | CC=1C=C(C=C(C1OC)C)Br | C9H11BrO
